US07943619B2
N-[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-oxalamic acid methyl ester
As described for example 18, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine (200 mg, 0.7 mmol) was converted, using chloro-oxo-acetic acid methyl ester instead of methoxyacetyl chloride, to the title compound (88 mg, 44%) which was obtained as a white solid. MS: m/e=369.0 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine | 0.7 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)N | C15H14N4O2
reactant | chloro-oxo-acetic acid methyl ester | COC(C(=O)Cl)=O | C3H3ClO3
product | N-[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-oxalamic acid methyl ester | 88 mg, 44% | COC(C(=O)NC=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C18H16N4O5
